US07816371B2
c. (S)-2-(5-(2-(4-Chloro-2-(trifluoromethyl)phenyl)acetamido)-1-oxoisoquinolin-2(1H)-yl)propanamide
A round bottom flask was charged with 2-(4-chloro-2-(trifluoromethyl)phenyl)acetic acid (0.13 g, 0.00056 mol), N,N,N′,N′-tetramethyl-O-(7-azabenzotriazol-1-yl)uronium hexafluorophosphate (0.3 g, 0.0009 mol), N,N-diisopropylethylamine (0.2 mL, 0.0009 mol), N,N-dimethylformamide (5 mL, 0.06 mol) and (S)-2-(5-amino-1-oxoisoquinolin-2(1H)-yl)propanamide (0.1 g, 0.0004 mol), and the reaction was stirred for 16 h at room temperature. The reaction was quenched with water and extracted with dichloromethane, washed with 2N HCl, saturated sodium bicarbonate solution, brine and dried over sodium sulfate. The solvent was removed under reduced pressure and the residue purified by flash chromatography (12 g, 0-10% MeOH/DCM) to yield the product as a white solid. MS m/z=452.4 (M+H). 1H NMR (400 MHz; DMSO-d6) δ 10.11 (s, 1H), 8.07 (d, J=8.80 Hz, 1H), 7.79-7.76 (m, 3H) 7.64-7.60 (m, 2H), 7.49 (d, J=8.08 Hz, 1H), 7.45 (t, J=7.7 Hz, 1H), 7.23 (bs, 1H), 6.71 (d, J=7.77 Hz, 1H), 5.50-5.45 (q, J=7.24 Hz, 1H), 4.06 (s, 2H), 1.55 (d, J=7.54 Hz, 3H).

reactant | 2-(4-chloro-2-(trifluoromethyl)phenyl)acetic acid | 0.00056 mol, 0.13 g | ClC1=CC(=C(C=C1)CC(=O)O)C(F)(F)F | C9H6ClF3O2
reactant | N,N,N′,N′-tetramethyl-O-(7-azabenzotriazol-1-yl)uronium hexafluorophosphate | 0.0009 mol, 0.3 g | F[P-](F)(F)(F)(F)F.C[N+](=C(ON1N=NC2=C1N=CC=C2)N(C)C)C
reactant | N,N-diisopropylethylamine | 0.0009 mol, 0.2 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | N,N-dimethylformamide | 0.06 mol, 5 mL | CN(C=O)C | C3H7NO
reactant | (S)-2-(5-amino-1-oxoisoquinolin-2(1H)-yl)propanamide | 0.0004 mol, 0.1 g | NC1=C2C=CN(C(C2=CC=C1)=O)[C@H](C(=O)N)C | C12H13N3O2
product | (S)-2-(5-(2-(4-Chloro-2-(trifluoromethyl)phenyl)acetamido)-1-oxoisoquinolin-2(1H)-yl)propanamide | ClC1=CC(=C(C=C1)CC(=O)NC1=C2C=CN(C(C2=CC=C1)=O)[C@H](C(=O)N)C)C(F)(F)F | C21H17ClF3N3O3
